US03939267
The mixture of 2.3 g of 4-(4-acetamidophenylmercapto)-3-furfurylamino-5-sulfamoylbenzoic acid and 23 ml of 2N aqueous sodium hydroxide is refluxed for one hour under nitrogen. After cooling to room temperature it is acidified to pH = 5 and the precipitate formed filtered off. It is dissolved in 25 ml of 50% hot aqueous ethanol, the solution cooled to room temperature and decanted from some amorphous substance. The supernatant solution is allowed to stand at room temperature for a longer period of time, the precipitate formed filtered off and this recrystallization procedure repeated several times, to yield the 4-(4-aminophenylmercapto)-3-furfurylamino-5-sulfamoylbenzoic acid, starting to melt at about 125°.

reactant | 4-(4-acetamidophenylmercapto)-3-furfurylamino-5-sulfamoylbenzoic acid | 2.3 g | C(C)(=O)NC1=CC=C(C=C1)SC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)NCC1=CC=CO1 | C20H19N3O6S2
reactant | sodium hydroxide | 2N, 23 ml | [OH-].[Na+]
product | 4-(4-aminophenylmercapto)-3-furfurylamino-5-sulfamoylbenzoic acid | NC1=CC=C(C=C1)SC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)NCC1=CC=CO1 | C18H17N3O5S2
